US07700605B2
A mixture of N-(3′-hydroxy-biphenyl-4-yl)guanidine (550 mg), 2,4-dichloropyrimidine (146 mg) and potassium carbonate (196 mg) in DMF (8 ml) is stirred at rt for 20 h. This mixture is purified by preparative HPLC (gradient of water, 0.1% TFA/acetonitrile, 0.1% TFA from 80/20 to 0/100 on Nucleosil 100-10 C18 column). The fractions containing product are basified with 1 N NaOH to pH 8, evaporated and dried under reduced pressure. The residue is stirred in ethanol, the solvent is evaporated and dried under reduced pressure to afford crude N-[3′-(2-chloro-pyrimidin-4-yloxy)biphenyl-4-yl]-guanidine.

reactant | N-(3′-hydroxy-biphenyl-4-yl)guanidine | 550 mg | OC=1C=C(C=CC1)C1=CC=C(C=C1)NC(=N)N | C13H13N3O
reactant | 2,4-dichloropyrimidine | 146 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 196 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | N-[3′-(2-chloro-pyrimidin-4-yloxy)biphenyl-4-yl]-guanidine | ClC1=NC=CC(=N1)OC=1C=C(C=CC1)C1=CC=C(C=C1)NC(=N)N | C17H14ClN5O
